US07977477B2
A mixture of 4-morpholin-4-ylmethyl-benzene-1,2-diamine (2.5 g, 12 mmol), 1-(4-methoxy-benzyl)-4-nitro-1H-pyrazole-3-carboxylic acid (2.91 g, 10 mmol), EDC (2.3 g, 12 mmol) and HOBt (1.62 g, 12 mmol) in dry DMF (40 ml) was stirred at ambient temperature for 24 h. The mixture was reduced in vacuo, the residue partitioned between EtOAc (100 ml) and water (50 ml) and the organic portion washed with saturated aqueous sodium hydrogen carbonate, dried (MgSO4) and reduced in vacuo. The residue was dissolved in AcOH (70 ml) and heated at reflux for 3 h. The solvent was removed in vacuo and the residue purified by flash column chromatography [SiO2, MeOH:DCM (5:95)] to give 2-[1-(4-methoxy-benzyl)-4-nitro-1H-pyrazol-3-yl]-5-morpholin-4-ylmethyl-1H-benzimidazole (2 g, 37%) as a yellow foam. (LC/MS: Rt 1.91, [M+H]+ 449).

reactant | 4-morpholin-4-ylmethyl-benzene-1,2-diamine | 12 mmol, 2.5 g | N1(CCOCC1)CC=1C=C(C(=CC1)N)N | C11H17N3O
reactant | 1-(4-methoxy-benzyl)-4-nitro-1H-pyrazole-3-carboxylic acid | 10 mmol, 2.91 g | COC1=CC=C(CN2N=C(C(=C2)[N+](=O)[O-])C(=O)O)C=C1 | C12H11N3O5
reactant | EDC | 12 mmol, 2.3 g
reactant | HOBt | 12 mmol, 1.62 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2-[1-(4-methoxy-benzyl)-4-nitro-1H-pyrazol-3-yl]-5-morpholin-4-ylmethyl-1H-benzimidazole | 2 g, 37% | COC1=CC=C(CN2N=C(C(=C2)[N+](=O)[O-])C2=NC3=C(N2)C=CC(=C3)CN3CCOCC3)C=C1 | C23H24N6O4
